US07718692B2
A. N-(4-Benzyloxy-phenyl)-2-methanesulfonyl-acetamide
A solution of 4-benzyloxyaniline hydrochloride (4.0 g, 17.0 mmol), methanesulfonylacetic acid (2.35 g, 17.0 mmol) and HBTU (6.89 g, 18.2 mmol) in DMF (70 mL) was stirred at ambient temperature one minute. DIEA (6.5 mL, 37.2 mmol) was added all at once, and the resultant solution was stirred at ambient temperature. The solution was poured into water, and the product crystallized. The product, 5.4 g (99%), was collected by filtration and was used without any further purification in the subsequent reaction. MS m/z 320 (MH+). 1H NMR(DMSO-d6) δ 3.17 (s, 3H), 4.25 (s, 2H), 5.07 (s, 2H), 7.00 (d, 2H), 7.32-7.55 (m, 7H) and 10.32 (s, 1H).

reactant | 4-benzyloxyaniline hydrochloride | 17.0 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | methanesulfonylacetic acid | 17.0 mmol, 2.35 g | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | HBTU | 18.2 mmol, 6.89 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 37.2 mmol, 6.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-Benzyloxy-phenyl)-2-methanesulfonyl-acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(CS(=O)(=O)C)=O | C16H17NO4S
